US09108977B2
To 150 mg of ethyl 1-methyl-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate were added 4 ml of ethylene glycol and 2 ml of a 40% aqueous potassium hydroxide solution, followed by heating at 120° C. and stirring for 18 hours. The reaction mixture was ice-cooled and the liquid was made acidic by the addition of concentrated hydrochloric acid, followed by stirring for an additional 1 hour. The reaction mixture was neutralized with a 1 M aqueous sodium hydroxide solution and then extracted with chloroform, the organic layer was dried over anhydrous sodium sulfate and then filtered, and the filtrate was concentrated under reduced pressure. Then, the residue was purified by silica gel chromatography (elution solvent: chloroform-MeOH-aqueous ammonia). To a solution of the resulting residue in 2 ml of EtOAc was added 0.2 ml of a 4 M hydrogen chloride solution in EtOAc, followed by stirring. The solvent was concentrated under reduced pressure and the resulting solid was dissolved in 2 ml of EtOH under heating, followed by stirring at room temperature. The precipitated solid was collected by filtration to obtain 43.7 mg of 1-methyl-1,3,4,6,7,8,9,10-octahydro-2H-azepino[4,5-g]quinolin-2-one monohydrochloride as a pale yellow solid.

reactant | ethyl 1-methyl-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 150 mg | CN1C(CCC2=CC3=C(C=C12)CCN(CC3)C(=O)OCC)=O | C17H22N2O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethylene glycol | 4 ml | C(CO)O | C2H6O2
product | 1-methyl-1,3,4,6,7,8,9,10-octahydro-2H-azepino[4,5-g]quinolin-2-one monohydrochloride | 43.7 mg | Cl.CN1C(CCC2=CC3=C(C=C12)CCNCC3)=O | InChI=1S/C14H18N2O.ClH/c1-16-13-9-11-5-7-15-6-4-10(11)8-12(13)2-3-14(16)17;/h8-9,15H,2-7H2,1H3;1H
